US07205404B1
A mixture of 3-phenyl-3-hydroxypropylmethanesulfonate (1.71 g, Gao, et al., J. Org. Chem., 1988, 53, 4081), tetrahydrofuran (10 mL) and 28% ammonium hydroxide (30 mL) was heated in a bomb at 65° C. for 16 hours. After cooling, the volatiles were eliminated to leave the aqueous solution which was extracted with ether. The aqueous layer was concentrated under reduced pressure, azeotroped twice with anhydrous acetonitrile and dried under vacuum to give 3-amino-1-phenyl-1-propanol (1.04 g) as a white solid: mp 92–94° C., Rf=0.1 (silica, methanol/ehtyl acetate 1/1).

reactant | 3-phenyl-3-hydroxypropylmethanesulfonate | 1.71 g | C1(=CC=CC=C1)C(CCCS(=O)(=O)[O-])O
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-amino-1-phenyl-1-propanol | 1.04 g | NCCC(O)C1=CC=CC=C1 | C9H13NO
